US07074777B2
(2) Synthesis of 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(3-ethyl-3-hydroxypentyloxymethyl)androsta-5,7,16-triene
Tetrahydrofuran (11 ml) was mixed with anhydrous cerous (III) chloride (2.33 g, 9.46 mmol), stirred under nitrogen stream at room temperature for 30 min., cooled with ice, mixed with ethylmagnesium bromide (0.96 mol/l, 9.0 ml, 8.6 mmol) and stirred for 30 min. The reaction solution was mixed with a solution of 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(N,N-dimethylaminocarbonylethoxymethyl)androsta-5,7,16-triene (553 mg, 0.86 mmol) in tetrahydrofuran (11 ml) at 0° C., followed by stirring for 1 hour at the same temperature. The reaction solution was poured into a saturated aqueous ammonium chloride solution, extracted with ethyl acetate (3 times), washed with saturated brine and water, dried over anhydrous magnesium sulfate and evaporated under reduced pressure to remove solvent, giving a reaction mixture containing a ketone body. The thus obtained mixture was again subjected to the same reaction and worked up; the thus obtained residue was purified by column chromatography (hexane:ethyl acetate=5:1) to give the titled compound (317 mg, 56.0%) as a yellow oil.

reactant | cerous (III) chloride | 9.46 mmol, 2.33 g | Cl[Ce](Cl)Cl
reactant | ethylmagnesium bromide | 8.6 mmol, 0.96 mol/l, 9.0 ml | C(C)[Mg]Br
reactant | 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(N,N-dimethylaminocarbonylethoxymethyl)androsta-5,7,16-triene | 0.86 mmol, 553 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)COCCC(=O)N(C)C)O[Si](C)(C)C(C)(C)C | C37H65NO4Si2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
reactant | Tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
product | 1α,3β-bis(tert-butyldimethylsilyloxy)-17-(3-ethyl-3-hydroxypentyloxymethyl)androsta-5,7,16-triene | 317 mg, 56.0% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@]4(C)CC[C@@H]3[C@@]12C)COCCC(CC)(O)CC)O[Si](C)(C)C(C)(C)C | C39H70O4Si2
